US05359098
6-(6-piperidinylhexoxy)-2-(3-pyridy)-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 11 from 2',5'-dihydroxyacetophenone, 3-pyridylcarbonyl chloride, 1-bromo-6-chlorohexane, and piperidine: mp 192°-193° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 3-pyridylcarbonyl chloride | N1=CC(=CC=C1)C(=O)Cl | C6H4ClNO
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | piperidine | N1CCCCC1 | C5H11N
product | 6-(6-piperidinylhexoxy)-2-(3-pyridy)-4H-1-benzopyran-4-one hydrochloride | Cl.N1(CCCCC1)CCCCCCOC=1C=CC2=C(C(C=C(O2)C=2C=NC=CC2)=O)C1 | InChI=1S/C25H30N2O3.ClH/c28-23-18-25(20-9-8-12-26-19-20)30-24-11-10-21(17-22(23)24)29-16-7-2-1-4-13-27-14-5-3-6-15-27;/h8-12,17-19H,1-7,13-16H2;1H
